US08664220B2
Step 1: 3-(4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-propionic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using (1-benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol and [4-(2-ethoxycarbonylethyl)phenyl]boronic acid.

reactant | (1-benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)N1N=NC(=C1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C20H17BrN4O2
reactant | [4-(2-ethoxycarbonylethyl)phenyl]boronic acid | C(C)OC(=O)CCC1=CC=C(C=C1)B(O)O | C11H15BO4
product | 3-(4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1N=NN(C1)CC1=CC=CC=C1)=O | C31H30N4O4
